US06551682B1
A reaction flask was loaded with 2-amino-3-hydroxypyridine (12 g), dimethylformamide (75 ml), and potassium carbonate (18 g), and they were mixed. The temperature was raised to 50° C. To this mixture, 1-bromopropane (16.1 g) was dropwise added in 30 minutes. After stirring at 50° C. overnight, water and ether were added to the mixture, followed by stirring. The organic layer was collected from this, and washed with water, and then condensed to give 2-amino-3-propoxypyridine (4.0 g).

reactant | 2-amino-3-hydroxypyridine | 12 g | NC1=NC=CC=C1O | C5H6N2O
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 16.1 g | BrCCC | C3H7Br
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-amino-3-propoxypyridine | 4.0 g | NC1=NC=CC=C1OCCC | C8H12N2O
